US07745618B2
As part of our work in chlorin chemistry, we recently developed an efficient route for the synthesis of 1-formyldipyrromethanes.21 The formylation method entailed traditional Vilsmeier formylation or treatment of a solution of dipyrromethane in THF at room temperature with 2 molar equiv of MesMgBr and then at −78° C. with 2 molar equiv of phenyl formate. The subsequent workup and column chromatography afforded the desired 1-formyldipyrromethane in good yields.

reactant | dipyrromethane | C1=CNC(=C1)CC2=CC=CN2 | C9H10N2
reactant | MesMgBr | C1(=C(C)C=C(C)C=C1C)[Mg]Br
reactant | phenyl formate | C(=O)OC1=CC=CC=C1 | C7H6O2
solvent | chlorin | C1CC2=NC1=CC3=CC=C(N3)C=C4C=CC(=N4)C=C5C=CC(=C2)N5 | C20H16N4
solvent | THF | C1CCOC1 | C4H8O
product | 1-formyldipyrromethane | C1=CNC(=C1)CC2=CC=C(N2)C=O | C10H10N2O
